US20010021718A1
tert-Butyl 3-{[(5-{(1R)4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl]amino}-1-azetidinecarboxylate
A solution of (3R)-3-[3-({[1-(tert-butoxycarbonyl)-3-azetidinyl]amino}carbonyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoic acid (Preparation 79) (350 mg, 0.75 mmol) and N-methylmorpholine (163 μl, 1.48 mmol) in anhydrous tetrahydrofuran (15 ml) was cooled to 0° C., treated with isobutyl chloroformate (116 μl, 0.89 mmol) and stirred under a nitrogen atmosphere for 2 hours. O-(Trimethylsilyl)hydroxylamine (272 μl, 2.22 mmol) was added and the mixture was stirred for 18 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol and stirred at room temperature for 2 hours. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (100 ml) and washed with water (2×25 ml) and brine (25 ml), dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The solid was purified by column chromatography on silica gel eluting with a gradient system of 98.75:1.25:0.13 (dichloromethane:methanol:ammonia) gradually changing to 90:10:1 (dichloromethane:methanol:ammonia) to afford the title compound as a glass.

reactant | (3R)-3-[3-({[1-(tert-butoxycarbonyl)-3-azetidinyl]amino}carbonyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoic acid | 0.75 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CC(C1)NC(=O)C1=NOC(=N1)[C@@H](CC(=O)O)CCCC1CCCCC1 | C23H36N4O6
reactant | N-methylmorpholine | 1.48 mmol, 163 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.89 mmol, 116 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 2.22 mmol, 272 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | tert-Butyl 3-{[(5-{(1R)4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl]amino}-1-azetidinecarboxylate | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)NC1CN(C1)C(=O)OC(C)(C)C | C23H37N5O6
